### ISSUE TITLE
DivMod: Address normalization simp set to replace one-off lemmas

### ISSUE THREAD

**Issue by pirapira** [Verified-zkEVM/evm-asm#263]
## Problem

The divmod composition proofs require dozens of **one-off address equality lemmas** that prove facts of the form:

```lean
(sp + signExtend12 4056 - (1 : Word) <<< (3 : BitVec 6).toNat) + signExtend12 0 =
(sp + signExtend12 4056 - (0 : Word) <<< (3 : BitVec 6).toNat) + signExtend12 4088
```

Each such lemma follows the exact same proof pattern:
```lean
theorem u_j1_0_eq_j0_4088 (sp : Word) : ... := by
  simp only [
    show signExtend12 (0 : BitVec 12) = (0 : Word) from by decide,
    show signExtend12 (4056 : BitVec 12) = (18446744073709551576 : Word) from by decide,
    show signExtend12 (4088 : BitVec 12) = (18446744073709551608 : Word) from by decide,
    show (3 : BitVec 6).toNat = 3 from by decide,
    show (0 : Word) <<< 3 = (0 : Word) from by decide,
    show (1 : Word) <<< 3 = (8 : Word) from by decide]
  bv_omega
```

### Current inventory

- `LoopComposeN3.lean`: 4 address equalities for j=1→j=0 transition (`u_j1_*_eq_j0_*`)
- `FullPathN3Loop.lean`: 12+ address normalization lemmas (`n3_ub1_off0`, `n3_ub1_off4088`, `n3_ub1_off4080`, `n3_ub1_off4072`, `n3_ub1_off4064`, `n3_ub0_off0`, `n3_qa1`, `n3_qa0`, `n3_uhi_*`, `n3_ulo_*`, `n3_vtop_addr`)
- `Compose/Base.lean`: shared `se12_32`, `se12_40`, `se12_48`, `se12_56`

Each new n-variant or iteration count generates a new batch of these. For n=2 with 3 iterations, expect ~20+ new address lemmas.

### Root cause

All these lemmas exist because:
1. `signExtend12` applied to concrete `BitVec 12` literals isn't reduced by default
2. `(j : Word) <<< (3 : BitVec 6).toNat` isn't reduced when `j` is concrete
3. `bv_omega` can close the goal once these are reduced, but needs the simp preprocessing

### Option A: Dedicated simp set (minimal change)

Create a `@[simp]` lemma set that evaluates `signExtend12` on all concrete 12-bit offsets used in divmod, plus shift evaluations:

```lean
-- In a shared file (e.g., DivMod/AddrNorm.lean)
@[divmod_addr] theorem se12_0    : signExtend12 (0 : BitVec 12)    = (0 : Word) := by decide
@[divmod_addr] theorem se12_4056 : signExtend12 (4056 : BitVec 12) = (18446744073709551576 : Word) := by decide
@[divmod_addr] theorem se12_4088 : signExtend12 (4088 : BitVec 12) = (18446744073709551608 : Word) := by decide
-- ... (enumerate all ~20 concrete offsets used)

@[divmod_addr] theorem bv6_toNat_3 : (3 : BitVec 6).toNat = 3 := by decide
@[divmod_addr] theorem word_shl_0  : (0 : Word) <<< 3 = (0 : Word) := by decide
@[divmod_addr] theorem word_shl_1  : (1 : Word) <<< 3 = (8 : Word) := by decide
@[divmod_addr] theorem word_shl_2  : (2 : Word) <<< 3 = (16 : Word) := by decide
-- ...
```

Then all address lemmas become one-liners or disappear:
```lean
theorem u_j1_0_eq_j0_4088 (sp : Word) : ... := by simp only [divmod_addr]; bv_omega
```

### Option B: `divmod_addr` tactic (more automation)

```lean
macro "divmod_addr" : tactic =>
  `(tactic| (simp only [divmod_addr]; bv_omega))
```

All address proofs become `by divmod_addr`. Could even be used inline:
```lean
(by rw [show ... from by divmod_addr]; exact hv_u1)
-- or better, a combined validity discharger
```

### Option C: `norm_num`-style automation

Register a `norm_num` extension or `simp` extension for `signExtend12` applied to numeric literals, so `simp` automatically reduces them without an explicit lemma set. This is the most robust but highest effort.

## Impact

- Eliminates ~50+ one-off address lemmas across the divmod composition files
- Each new n-variant or iteration count no longer needs manual address lemma enumeration
- Reduces `LoopComposeN3.lean` by ~80 lines, `FullPathN3Loop.lean` by ~100 lines
- Makes composition proofs more readable (the address plumbing is the least interesting part)

## Effort

**Low** for Option A (enumerate concrete lemmas, ~30 lines of setup).
**Low-Medium** for Option B (add tactic macro, ~10 extra lines).
**Medium** for Option C (needs `norm_num`/`simp` plugin understanding).

Recommend starting with Option A+B, then consider Option C if the concrete offset inventory grows too large.

**Comment by pirapira** [comment]
This is **resolved**. The `divmod_addr` simp set + tactic both exist and are widely used.

## Current state

**Simp set**: `EvmAsm/Evm64/DivMod/AddrNorm.lean` enumerates the atomic facts with `@[divmod_addr]` (e.g., `se12_4056`, `word_shl3_0`, `bv6_toNat_3`) and re-tags shared facts from `Rv64/AddrNorm.lean`.

**Tactic**: `by divmod_addr` is defined in the same file and falls back to `grind` → `simp only [divmod_addr]; bv_omega`.

**Grindset**: many atomic facts are also registered with `@[grind =]` so the first-try `grind` branch often closes the goal directly.

## Adoption

```
$ grep -rn "divmod_addr$\|divmod_addr \|divmod_addr]" EvmAsm/Evm64/DivMod/ | wc -l
69
```

Every n-variant address-overlap lemma (`u_addr_eq_n{1,2,3,4}`, `vtop_eq_v{0,1,2,3}_n{1,2,3,4}`, `u_j{1,2,3}_*_eq_j{0,1,2}_*`, `n{1,2,3}_ub*_off*`, etc.) now proves in one line via `by divmod_addr`. The ~50+ ad-hoc lemmas the issue cited have been replaced with mechanical one-liners.

Suggest closing.

**Comment by pirapira** [comment]
## Status update — substantive work has landed

The address-normalization simp-set infrastructure proposed in this issue has shipped, and the originally enumerated savings have materialized. Summary:

**Landed infrastructure**
- `register_simp_attr rv64_addr` in `EvmAsm/Rv64/AddrNormAttr.lean` (universal: `signExtend12`, shift, `toNat` over numeric literals).
- `register_simp_attr divmod_addr` in `EvmAsm/Evm64/DivMod/AddrNormAttr.lean` (DivMod-specific atoms).
- `register_simp_attr exp_addr` in `EvmAsm/Evm64/Exp/AddrNormAttr.lean` (Exp-specific atoms).
- Central atom files `EvmAsm/Rv64/AddrNorm.lean` and `EvmAsm/Evm64/DivMod/AddrNorm.lean` driving `by rv64_addr` / `by divmod_addr` tactics.

**Adoption metrics**
- 37 files under `EvmAsm/Evm64/DivMod/` import the DivMod `AddrNorm` module.
- 15 files under `EvmAsm/Evm64/DivMod/` use the `divmod_addr` simp set directly.
- 29 files repo-wide invoke `by rv64_addr` / `by divmod_addr` / `by exp_addr`.
- The audit pattern `show signExtend12 (...) = ... from by decide` has been driven to **zero** occurrences across `EvmAsm/Evm64/DivMod/`.
- New opcode subtrees opt into the same pattern: e.g. `EvmAsm/Evm64/Exp/AddrNormAttr.lean` is the canonical shape for opcode-local extensions.

**Documentation**
- AGENTS.md and `EvmAsm/Evm64/OPCODE_TEMPLATE.md` now document the `rv64_addr` / `divmod_addr` / `exp_addr` grindset family and the `AddrNormAttr.lean + AddrNorm.lean` opt-in pattern (PR #1663).

**Proposing close.** The originally enumerated savings (~50 one-off lemmas, ~80 LoC LoopComposeN3, ~100 LoC FullPathN3Loop) materialized; the convention is documented for future opcode subtrees. Suggesting this issue can be closed.

Authored by @pirapira; implemented by Hermes-bot (evm-hermes).

**Comment by pirapira** [comment]
**Hermes-bot autonomous triage** — closure re-confirmation (2026-05-03)

Re-confirming the closure recommendation from 2026-04-22 ("This is resolved"). The issue has been ready to close for ~11 days; no further work has been filed against it. The `divmod_addr` simp-set infrastructure plus all migration slices (1–5, beads `evm-asm-g7q7` / `dtmj` / `nbs2` / `njgk` / `5q8l` / `qkip`) are merged on `main`.

This issue can be closed.

*[Posted by Hermes-bot autonomous triage worker (evm-hermes), commenting on @pirapira's behalf — not authored by Yoichi.]*
